US08026260B2
2-naphthyl (4-{[(4-amino-1-phenyl-1H-pyrazol-3-yl)amino]carbonyl}benzyl)carbamate (Scheme 5)
To a solution of 2-naphthyl {4-[({4-[(tert-butoxycarbonyl)amino]-1-phenyl-1H-pyrazol-3-yl}amino)carbonyl]benzyl}carbamate (approximately 5 mg) in ethyl acetate (1 mL) was added 4M HCl in dioxane (1 mL). The reaction was stirred at ambient temperature for 16 hours. Evaporation in vacuo gave the title compound as a white solid. 1H NMR (600 MHz, CD3OD) δ 8.44 (s, 1H), 8.07 (d, J=8.2 Hz, 2H), 7.87 (t, J=8.5 Hz, 2H), 7.82 (d, J=7.9 Hz, 1H), 7.79 (d, J=8.8 Hz, 2H), 7.52 (m, 7H), 7.37 (t, J=7.3 Hz, 1H), 7.28 (dd, J=8.8, 2.1 Hz, 1H), 4.50 (s, 2H); ESIMS calcd 478.2 (M++H), found 478.1 (M++H).

reactant | 2-naphthyl {4-[({4-[(tert-butoxycarbonyl)amino]-1-phenyl-1H-pyrazol-3-yl}amino)carbonyl]benzyl}carbamate | approximately 5 mg | C(C)(C)(C)OC(=O)NC=1C(=NN(C1)C1=CC=CC=C1)NC(=O)C1=CC=C(CNC(OC2=CC3=CC=CC=C3C=C2)=O)C=C1 | C33H31N5O5
reactant | HCl | 4M | Cl | ClH
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-naphthyl (4-{[(4-amino-1-phenyl-1H-pyrazol-3-yl)amino]carbonyl}benzyl)carbamate | NC=1C(=NN(C1)C1=CC=CC=C1)NC(=O)C1=CC=C(CNC(OC2=CC3=CC=CC=C3C=C2)=O)C=C1 | C28H23N5O3
